US07425568B2
2-[2-(3-Bromophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 339 mg of 2-(3-bromophenyl)chroman-6-ol. The product was filtered through silica gel using toluene-ethyl acetate as an eluant and then crystallised from 2-propanol. 1H NMR (400 MHz, CDCl3) δ: 9.04 (d, 1H, J 2.9 Hz), 8.60 (dd, 1H, J 9.2, 2.9 Hz), 7.66 (bs, 1H), 7.55 (m, 1H), 7.48 (m, 1H), 7.39 (m, 1H), 7.20 (d, 1H, J 9.2 Hz), 7.01-6.93 (m, 3H), 5.17 (dd, 1H, J 10.1, 2.2 Hz), 2.97 (m, 1H), 2.72 (m, 1H), 2.20 (m, 1H), 2.00 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-bromophenyl)chroman-6-ol | 339 mg | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13BrO2
product | 2-[2-(3-Bromophenyl)chroman-6-yloxy]-5-nitropyridine | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H15BrN2O4
